US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-phenylthiourea
1-(3-Aminopropyl)-4-(4-chlorobenzyl)piperazine (5.36 g; 20 mmole) was reacted with phenyl isothiocyanate 2.82 g; 21 mmole) in methylene chloride (35 ml) in the manner described in Example 17. The crude product was isolated and chromatographed on silica gel in analogous manner. The product crystallized from ethanol to yield the title compound (2.39 g; 30% yield) as an off-white crystalline solid, m.p. 155°-156° C.

reactant | 1-(3-Aminopropyl)-4-(4-chlorobenzyl)piperazine | 20 mmole, 5.36 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | phenyl isothiocyanate | 2.82 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-phenylthiourea | 2.39 g, 30% yield | ClC1=CC=C(CN2CCN(CC2)CCCNC(=S)NC2=CC=CC=C2)C=C1 | C21H27ClN4S
